US06949571B2
3-(2-Methyl-5-phenylpyrrol-1-yl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one
25 mg of 3-amino-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one was dissolved in 10 ml of toluene. To the mixture were added 20 mg of 1-phenyl-1,4-pentandione and 0.2 mg of p-toluenesulfonate (hydrate), followed by heating under reflux for 1 hour. After cooling to room temperature, the reaction mixture was poured into a saturated aqueous solution of sodium hydrogen carbonate, followed by extracting with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (hexane/ethyl acetate system), to give 12 mg of the title compound.

reactant | 3-amino-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one | 25 mg | NC=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C16H13N3O
reactant | 1-phenyl-1,4-pentandione | 20 mg | C1(=CC=CC=C1)C(CCC(C)=O)=O | C11H12O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonate | 0.2 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
product | 3-(2-Methyl-5-phenylpyrrol-1-yl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 12 mg | CC=1N(C(=CC1)C1=CC=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C27H21N3O
